.global vgnd
.global vgnd
.subckt variable_gain_amplifier vmirror_vga s0 s1 s2 s3 vin1 vin2 vout_vga1 vout_vga2 vgnd
.param nfpf_sw=12 nfpf_cm=12 nfpf_dp=12 rl=400

        M03 vmirror_vga vmirror_vga vgnd vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_cm m=1 nf=6
		M02 net3p vmirror_vga vgnd vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_cm m=1 nf=6
		M01 vout_vga2 vin2 net3 vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_dp m=1 nf=4
		M00 vout_vga1 vin1 net3 vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_dp nf=4
		Msw0 net3 s0 net3p vgnd sky130_fd_pr__nfet_01v8 L=1.4000e-08 nfin=nfpf_sw nf=6
		Msw1 net5 s1 net5p vgnd sky130_fd_pr__nfet_01v8 L=1.4000e-08 nfin=nfpf_sw nf=6
		M12 net5p vmirror_vga vgnd vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_cm nf=6
		M11 vout_vga2 vin2 net5 vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_dp nf=4
		M10 vout_vga1 vin1 net5 vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_dp nf=4
		Msw2 net4 s2 net4p vgnd sky130_fd_pr__nfet_01v8 L=1.4000e-08 nfin=nfpf_sw nf=6
		M22 net4p vmirror_vga vgnd vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_cm nf=6
		M21 vout_vga2 vin2 net4 vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_dp nf=4
		M20 vout_vga1 vin1 net4 vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_dp nf=4
		Msw3 net6 s3 net6p vgnd sky130_fd_pr__nfet_01v8 L=1.4000e-08 nfin=nfpf_sw nf=6
		M32 net6p vmirror_vga vgnd vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_cm nf=6
		M31 vout_vga2 vin2 net6 vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_dp nf=4
		M30 vout_vga1 vin1 net6 vgnd sky130_fd_pr__nfet_01v8 nfin=nfpf_dp nf=4
		R5 vps vout_vga2 rl
		R6 vps vout_vga1 rl
.ends variable_gain_amplifier
